US04052341
A mixture of 105 g (0.5 mole) of 3-methyl-5-(2,2,3-trimethylcyclopent-3-en-1-yl)pentan-2-ol, 5.3 g of 5% palladium on carbon and 100 ml of ethanol was hydrogenated at 30°-45° C and 35-50 psi until the hydrogen uptake ceased. The mixture was filtered to remove the catalyst and the solvent was removed from the filtrate by distillation. The residual oil was fractionally distilled to yield 3-methyl-5-(2,2,3-trimethylcyclopentan-1-yl)pentan-2-ol: 93.2 g (97.3% yield); bp 105°-107° C (1.3 mm); mol wt 212 (ms);

reactant | 3-methyl-5-(2,2,3-trimethylcyclopent-3-en-1-yl)pentan-2-ol | 0.5 mole, 105 g | CC(C(C)O)CCC1C(C(=CC1)C)(C)C | C14H26O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 5.3 g | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-methyl-5-(2,2,3-trimethylcyclopentan-1-yl)pentan-2-ol | 97.3% yield | CC(C(C)O)CCC1C(C(CC1)C)(C)C | C14H28O
